US04690929
A solution of 1.3 ml of ethyl bromoacetate in 30 ml of dimethylformamide was added to a warmed solution of 6 g of 8β-aminomethyl-6-methyl-ergoline in 90 ml of dimethylformamide. At the end of the reaction, the solution was reduced in volume by evaporation in vacuo, poured into iced water and extracted with chloroform. The organic layer was removed in vacuo and the residue was purified by column chromatography on silica gel, using ethyl acetate:methanol (9:1 by volume) as eluent, to give 3.5 g of 6-methyl-8β-(N-ethoxycarbonylmethyl-aminomethyl)-ergoline (II: R1 =R2 =R3 =H, R4 =CH3, n=1, A=CHR6, R6 =H, B=CO2C2H5), m.p. 174°-176° C., after crystallization from diethyl ether. 3.5 of 6-methyl-8β-(N-ethoxycarbonylmethyl-aminomethyl)-ergoline were treated with 1.75 g of potassium cyanate, as described in Example 1, and the title compound, m.p. >300° C., was obtained in 72% yield.

reactant | ethyl bromoacetate | 1.3 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 8β-aminomethyl-6-methyl-ergoline | 6 g | NC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C16H21N3
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
product | 6-methyl-8β-(N-ethoxycarbonylmethyl-aminomethyl)-ergoline | 3.5 g, 72% yield | CN1C[C@@H](C[C@@H]2C=3C=CC=C4NC=C(C[C@@H]12)C34)CNCC(=O)OCC | C20H27N3O2
